US04820821
5.0 g (24.1 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride in 50 ml of butyryl chloride were refluxed for 15 hours, while stirring. The mixture was cooled and then filtered under suction, and the residue was washed with acetone and recrystallized from isopropanol. 4.8 g (72% of theory) of 4-butyrylimino-1,4-dihydro-1-phenylpyridazine hydrochloride were isolated as pale beige crystals of melting point 205°-208° C.

reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | 24.1 millimoles, 5.0 g | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | butyryl chloride | 50 ml | C(CCC)(=O)Cl | C4H7ClO
product | 4-butyrylimino-1,4-dihydro-1-phenylpyridazine hydrochloride | 4.8 g, 72% | Cl.C(CCC)(=O)N=C1C=NN(C=C1)C1=CC=CC=C1 | InChI=1S/C14H15N3O.ClH/c1-2-6-14(18)16-12-9-10-17(15-11-12)13-7-4-3-5-8-13;/h3-5,7-11H,2,6H2,1H3;1H
